Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Streptomycin / Pollen/Hayfever
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ old woman with a history of hypertension on multiple 
anti-hypertensive medications who was brought into the ED by 
ambulance after suffering a syncopal event while having her 
nails done.

According to the patient and her sister-in-law, the patient was 
in her normal state of health yesterday when she placed her feet 
into a hot bath for a pedicure, then became pale, sweaty and 
lost consciousness. When EMS arrived they found her still 
sitting up in the chair, unconscious. She was brought to the ED 
where she regained consciousness; she had some residual 
difficulty with ___ (her second language) for a period of 
time but this has resolved. She was unsteady on her feet, which 
is new for her, but she returned to her baseline mental status 
once in the ED

Given initial difficulty to obtain history from the patient, the 
patient was worked up for a code-stroke and NCHCT was obtained 
which was negative for intracranial abnormality. Neurology was 
consulted and was able to obtain collateral information from the 
sister-in-law who recounted the syncopal event at the nail 
salon. Per their note, the patient and her sister-in-law agree 
that she is at her baseline mental status and is AAOx3. Exam 
notable for L ptosis which is chronic following cataract 
surgery. 
 
In the ED, initial vital signs were: 96.5 56  127/70  18 98% RA  
 
Exam notable for left ptosis (chronic following cataract 
surgery) and wide-based gait. Otherwise neuro examination was 
normal. 
Labs were notable for Na 138 K 4.0 BUN 34 Cr 1.2 WBC 6.4 HgB 
10.7 Hct 33.2. Troponin <0.01 x2. Lactate 1.4. UA unremarkable. 
CXR negative for PNA. 

Patient was given Tylenol ___, Pantoprazole 40mg, Atenolol 
100mg, HCTZ 25mg and Valsartan 160mg. 
   
On Transfer Vitals were: 98.9  152/73  58  14  96% RA  

On arrival she gives a good history as above in ___. Hard of 
hearing. Main concern is some difficulty with walking but 
otherwise she is upset about missing new years.
 
Past Medical History:
Hypertension
Vasculitis
Medial meniscus tear
GERD
Spinal stenosis 
Right total hip replacement ___
Hearing loss
Osteopenia
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================== 
Vitals: 97.6  193/78  58  20  97% RA 
General: ___ speaking only, laying comfortably in bed and 
speaking in full sentences, NAD
HEENT:  Left sided ptosis (chronic). NC/AT, EOMI, PERRL, MMM
Lymph:  no LAD
CV: RR, +S1/S2, no m/r/g
Lungs: CTAB, no r/r/w
Abdomen:  Soft, NT, ND, +BS throughout
GU: No foley
Ext: Warm, dry and well perfused. No edema.
Neuro: I asked her to stand and she did so, no difficulty, did 
not walk with her. CN II-XII intact, ___ strength in upper and 
lower extremities bilaterally. Sensation intact to light touch 
throughout. Speaking in full sentences but tangential in thought 
process. Follows simple commands.  Left pupil dilated and 
greater than right with left eyelid ptosis (chronic)
Skin: Warm and dry. No rashes or lesions noted
 
Pertinent Results:
ADMISSION LABS:
=================
___ 03:44PM BLOOD WBC-6.4 RBC-3.75* Hgb-10.7* Hct-33.2* 
MCV-89 MCH-28.5 MCHC-32.2 RDW-14.6 RDWSD-47.2* Plt ___
___ 03:44PM BLOOD Neuts-56.7 ___ Monos-10.7 
Eos-7.5* Baso-1.4* Im ___ AbsNeut-3.60 AbsLymp-1.49 
AbsMono-0.68 AbsEos-0.48 AbsBaso-0.09*
___ 03:44PM BLOOD Plt ___
___ 03:44PM BLOOD Glucose-112* UreaN-34* Creat-1.2* Na-138 
K-4.0 Cl-101 HCO3-25 AnGap-16
___ 03:44PM BLOOD cTropnT-<0.01
___ 10:05PM BLOOD cTropnT-<0.01
___ 03:58PM BLOOD Lactate-1.4

IMAGING:
========
CXR ___:
No acute cardiopulmonary process.

NCHCT ___:
FINDINGS:  
There is no evidence of acute vascular territorial infarction, 
hemorrhage, edema, or mass. The ventricles and sulci are 
prominent, due to age related global involutional change. 
Subcortical and periventricular white matter hypodensities are 
nonspecific, but likely related to the sequelae of chronic small 
vessel ischemic disease. 
  
There is opacification of a single posterior left ethmoid air 
cell.  The remaining paranasal sinuses, mastoid air cells and 
middle ear cavities are clear.  A right occipital calvarial 
osteoma is unchanged. 
IMPRESSION: 
1. No acute intracranial pathology. 
2. Chronic changes, as described above. 

CT Spine ___:
1. No evidence of cervical spine fracture or acute malalignment. 

2. Multilevel severe degenerative changes are most severe at 
C4-5, where there is unchanged mild anterolisthesis. 
3. 1.6 cm hypodense right thyroid nodule. 

EKG:  NSR, LVH, QRS 86, QTc 437

DISCHARGE LABS:
=================

 
Brief Hospital Course:
Brief Hospital Course:
Ms. ___ is a ___ year old female with PMH HTN, breast 
cancer s/p XRT and lumpectomy, and known thyroid nodule who 
presented to the ED following a syncopal episode likely 
vasovagal in nature. Specifically, the patient suffered sudden 
loss of consciousness when placing her feet in warm water when 
getting a pedicure. Had associated diaphoresis, but no preceding 
palpitations, nausea, vomiting, changes in vision. No post-ictal 
confusion or bowel or bladder incontinence. Neurology consulted 
and neuro exam unremarkable (has known left sided ptosis and 
pupillary dilation following cataract surgery). ___ negative 
for intracranial process. Cardiac w/u negative. No 
signs/symptoms of infection and no leukocytosis. Monitored on 
telemetry without events. Likely vasovagal in the setting of 
placing feet in warm water. Plan to follow-up with primary care 
physician ___ further management.

Of note, the patient an episode where she thought the people in 
the television were speaking to her. Neuro consulted and deemed 
to be a fixed delusion secondary to reduplicative paramesia. 
Specifically, this condition arises from hypoperfusion of the 
frontal lobes as a result of longstanding hypertension and 
microvascular disease. Per their recommendation, no need for 
further neurologic work up or neuro imaging. 

Please see below for detailed course:

# Syncope: Likely vasovagal. The patient initially presented 
after a sudden loss of consciousness when having a pedicure 
(feet placed in warm water and she immediately had LOC with some 
sweating). No evidence to suggest cardiac etiology (no preceding 
chest pain/discomfort/nausea/emesis/SOB). No events on tele and 
Troponin negative x 2. No focal signs to suggest CVA and her 
unsteady gait is the only finding on exam (chronic left 
pupil/ptosis). No significant murmur to suggest Aortic stenosis. 
 No localizing findings for infections (UA normal, normal CXR). 
Eating and drinking normally.
-- Likely vasovagal in nature 
-- Consider TTE as out-patient to complete work-up
-- Per neuro consider vascular MRA of head and neck to assess 
for vascular aneurysm/dissection given left sided ptosis 
(although known to have ptosis and left pupillary dilation 
following cataract surgery)

#HTN: Has a history of refractory hypertension currently on 
labetolol and valsartan. SBP elevated upon presentation and 
received HCTZ, atenolol and valsartan in the ED. Pressures 
improved and she was continued on her home BP meds
--Continued home labetolol and valsartan

# Reduplicative Paramesia vs. Dementia: Patient an episode where 
she thought the people in the television were speaking to her. 
Neuro consulted and deemed to be a fixed delusion secondary to 
reduplicative paramesia. Specifically, this condition arises 
from hypoperfusion of the frontal lobes as a result of 
longstanding hypertension and microvascular disease. Per their 
recommendation, no need for further neurologic work up or neuro 
imaging.
--Consider further neurocognitive w/u for possible dementia
--Per neuro, further imaging not indicated 

#Stage III CKD: The patient's creatinine 1.2 on admission which 
appears to be within range of her baseline Cr 1.1-1.3 based on 
review of OMR. Likely secondary to long-standing hypertension.
--Cr remained within baseline level

#Thyroid Nodule: Patient has known thyroid nodule with negative 
FNA analysis in ___. Has been monitored on serial ultrasound 
with no change in size. Per review of atrius records, does not 
need further ultrasound unless she develops a palpable nodule.
--FNA analysis from ___ negative
--Serial ultrasounds including most recent in ___ showed no 
change in size
--No further work-up needed at this time

#H/O Breast Cancer: ER/PR+, Her2/Neu- invasive breast cancer 
found on  screening mammography ___ and US guided biopsy.  
Lumpectomy was completed ___ showing a 1.7cm grade ___ 
invasive lobular carcinoma. ___ LN negative for disease. She 
underwent 3 weeks of XRT, completed ___. She started 
tamoxifen ___ with plans to continue ___ year course. Last 
mammogram ___ showed no evidence of malignancy.
--Continue tamoxifen 20mg daily

Transitional Issues:
====================
- Outpatient Cardiac Echocardiogram 
- Consider out-patient full cognitive evaluation and monitoring 
of possible delusions (?Dementia with delusions vs reduplicative 
paramesia). Per neuro, deemed likely secondary to reduplicative 
paramesia due to longstanding hypertension and no need for 
further imaging at this time.
- Patient has known thyroid nodule with negative FNA analysis in 
___ and no growth on serial ultrasounds (most recent in ___. 
No need for further work-up unless develops palpable nodule on 
exam
- Per neuro, consider vascular MRA of head and neck to assess 
for vascular aneurysm/dissection given left sided ptosis 
(although known to have ptosis and left pupillary dilation 
following cataract surgery)
- On tamoxifen for history of breast cancer s/p lumpectomy and 
XRT with last mammogram in ___ without e/o malignancy
- Code: Full
- Contact: Son ___ 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Labetalol 200 mg PO QAM 
2. Labetalol 100 mg PO QPM 
3. Valsartan 160 mg PO DAILY 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. Tamoxifen Citrate 20 mg PO DAILY 

 
Discharge Medications:
1. Labetalol 200 mg PO QAM 
2. Labetalol 100 mg PO QPM 
3. Multivitamins W/minerals 1 TAB PO DAILY 
4. Tamoxifen Citrate 20 mg PO DAILY 
5. Valsartan 160 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Syncope, reduplicative paramesia
Secondary: Hypertension, stage III chronic kidney disease, 
history of breast cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___ 
___. You were admitted after you lost consciousness 
while getting your nails done. Upon admission, you were seen by 
the Neurology team and imaging of your head was performed which 
did not show any evidence of stroke. Your heart rhythm was 
normal and there was no evidence of cardiac damage. It is likely 
that your symptoms were a result of a "vagal" response that was 
triggered by putting your feet into the warm water. 
Specifically, this a benign condition that is characterized by 
lightheadedness, sweating, feeling nauseas, and can lead to 
fainting. Your symptoms improved without any further episodes. 
Please follow-up with your primary care provider for further 
management.

Best Wishes, 
Your ___ Team
 
Followup Instructions:
___